US05344953
2-Chloro-4-fluorophenol (4.4 kg, 30 mol), triethylbenzylammonium chloride (17.1 g) and methylene chloride (7 liters) were put in a 20-liter three-neck flask as equipped with a stirrer and a dropping funnel, and cooled in an ice-water bath. 5N sodium hydroxide aqueous solution (6 liters) was gradually added thereto with stirring vigorously. Next, trichloromethyl chloroformate (885 ml, 7.35 mol) was gradually dropwise added thereto over a period of about 6 hours. After addition, the reaction liquid was stirred overnight. After reaction, the organic layer was separated, and the aqueous layer was extracted with methylene chloride (1000 ml×2). The organic layers were combined, washed with 1N sodium hydroxide aqueous solution (4 liters) and water (5 liters) and then dried with anhydrous magnesium sulfate. The drying agent was taken out by filtration, and the solvent was removed from the organic layer by distillation under reduced pressure to obtain a white solid of bis(2-chloro-4-fluorophenyl)carbonate (4.9 kg, 5.4 mol). Yield: 100%. Spectral data and other data of the product are those as shown in Example 2.

reactant | 2-Chloro-4-fluorophenol | 30 mol, 4.4 kg | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
reactant | sodium hydroxide | 5N, 6 liters | [OH-].[Na+]
reactant | trichloromethyl chloroformate | 7.35 mol, 885 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
catalyst | triethylbenzylammonium chloride | 17.1 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | methylene chloride | 7 liters | C(Cl)Cl | CH2Cl2
product | bis(2-chloro-4-fluorophenyl)carbonate | 5.4 mol, 4.9 kg, Yield: 100% | ClC1=C(C=CC(=C1)F)OC(OC1=C(C=C(C=C1)F)Cl)=O | C13H6Cl2F2O3
